US07005431B2
d) 2-(7-Bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol
To a stirred solution of 2-(imidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol (5.55 g, 31.1 mmol) in acetic acid (100 ml) was added sodium acetate (3.83 g, 46.7 mmol), then, dropwise over 5 min, a solution of bromine (1.77 ml, 34.4 mmol) in acetic acid (12 ml). The solution was stirred at room temperature for 25 min, then partitioned between saturated aqueous NaHCO3 (2 l) and ethyl acetate (1 l). The aqueous layer (pH 7) was further extracted with ethyl acetate (1 l), and the combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 2% MeOH/CH2Cl2) to afford 6.17 g (77%) of the title compound as a yellow solid: 1H NMR (360 MHz, CDCl3) δ 1.70 (6H, s), 3.12 (1H, br s), 7.95 (1H, s), 8.80 (1H, s).

reactant | 2-(imidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol | 31.1 mmol, 5.55 g | N=1N2C(N=C(C1)C(C)(C)O)=NC=C2 | C8H10N4O
reactant | sodium acetate | 46.7 mmol, 3.83 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 34.4 mmol, 1.77 ml | BrBr | Br2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 2-(7-Bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol | 6.17 g, 77% | BrC1=CN=C2N1N=CC(=N2)C(C)(C)O | C8H9BrN4O
